US08809267B2
Sulfamic acid 1-trifluoromethyl-cyclobutyl ester was synthesized according to the method presented in the synthesis of sulfamic acid phenyl ester in Example 1 with the exception of utilizing 1-trifluoromethyl-cyclobutanol to obtain sulfamic acid 1-trifluoromethyl-cyclobutyl ester: 1H NMR (CDCl3, 300 MHz) δ 5.85 (s, 2H), 3.40 (t, 1H), 3.01 (m, 1H), 2.56 (m, 1H), 2.42 (t, 1H), 2.04 (m, 1H), 1.85 (m, 1H).

reactant | sulfamic acid phenyl ester | C1(=CC=CC=C1)OS(N)(=O)=O | C6H7NO3S
reactant | 1-trifluoromethyl-cyclobutanol | FC(C1(CCC1)O)(F)F | C5H7F3O
product | sulfamic acid 1-trifluoromethyl-cyclobutyl ester | FC(C1(CCC1)OS(N)(=O)=O)(F)F | C5H8F3NO3S
